US05374720
The same procedure as in Example 8-1 was carried out by using allyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate (790 mg, 1.6 mmol), (2R,4S)-N-allyloxycarbonyl-2-(N-allyloxycarbonylpyrrolidin-3-ylmethyl)-4-mercaptopyrrolidine (560 mg, 1.6 mmol) and N,N-diisopropylethylamine (0.28 ml, 1.6 mmol) to obtain allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(N-allyloxycarbonylpyrrolidin-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (480 mg, yield: 50%).

reactant | allyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate | 1.6 mmol, 790 mg | O[C@H](C)[C@@H]1[C@H]2N(C(=C([C@@H]2C)OP(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)C(=O)OCC=C)C1=O | C25H26NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-2-(N-allyloxycarbonylpyrrolidin-3-ylmethyl)-4-mercaptopyrrolidine | 1.6 mmol, 560 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1CN(CC1)C(=O)OCC=C | C17H26N2O4S
reactant | N,N-diisopropylethylamine | 1.6 mmol, 0.28 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(N-allyloxycarbonylpyrrolidin-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 480 mg, yield: 50% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2CN(CC2)C(=O)OCC=C | C30H41N3O8S
